US07576215B2
4-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-2-ETHOXYPHENOL
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 5-ethoxy-4-hydroxybenzaldehyde according to the procedure of step 1, Example 66. MS (ESI) m/z 529; MS (ESI) m/z 527.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 5-ethoxy-4-hydroxybenzaldehyde | C(C)OC=1C(=CC=C(C=O)C1)O | C9H10O3
product | 4-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-2-ETHOXYPHENOL | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC(=C(C=C1)O)OCC)C(F)(F)F | C32H27F3N2O2
